US06204282B1
2-(1-Aminoethyl)benzimidazole dihydrochloride hydrate
Combine o-phenylenediamine (10.8 g, 100 mmol) and d,l-alanine (13.4 g, 150 mmol) in 6 N HCl (100 mL) Heat at reflux 75 hours, allow to cool, and chill at −15° C. Filter to remove 2.4 g solid. Decolorize the filtrate with charcoal, concentrate in vacuo to 30 g, and dilute with 95% EtOH (90 mL). Chill at −15° C., filter and wash with cold 90% EtOH to obtain the title compound as a white powder.

reactant | o-phenylenediamine | 100 mmol, 10.8 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | d,l-alanine | 150 mmol, 13.4 g | NC(C)C(=O)O | C3H7NO2
reactant | HCl | 6 N, 100 mL | Cl | ClH
product | 2-(1-Aminoethyl)benzimidazole dihydrochloride hydrate | O.Cl.Cl.NC(C)C=1NC2=C(N1)C=CC=C2 | InChI=1S/C9H11N3.2ClH.H2O/c1-6(10)9-11-7-4-2-3-5-8(7)12-9;;;/h2-6H,10H2,1H3,(H,11,12);2*1H;1H2
